US06855722B2
d) 6-Methyl-2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carboxylic acid tert-butyl ester
A mixture of 6-methyl-3,4-dihydro-2h-pyrido[3,2-b][1,4]oxazine (0.89 g, 5.93 mmol) and di-tert-butyl dicarbonate was heated and stirred at 60° C. for 48 h, and then allowed to cooled to ambient temperature to give crude product. Recrystallization of the crude product from hexane gave the title compound (1.18 g, 80% yield) as a white solid. This crude product was used in next step reaction without further purification.

reactant | 6-methyl-3,4-dihydro-2h-pyrido[3,2-b][1,4]oxazine | 5.93 mmol, 0.89 g | CC=1C=CC=2OCCNC2N1 | C8H10N2O
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 6-Methyl-2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carboxylic acid tert-butyl ester | 1.18 g, 80% yield | C(C)(C)(C)OC(=O)N1C2=C(OCC1)C=CC(=N2)C | C13H18N2O3
